
// Library name: afe_sch
// Cell name: afe_bias
// View name: schematic
subckt afe_bias vbias vdd vss
    Mbb (vbias vbias vss vss) nch_lvt_mac l=16.0n nfin=16 w=730.0n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
    Mba (vbias vbias vss vss) nch_lvt_mac l=16.0n nfin=16 w=730.0n multi=1 \
        nf=1 sd=74.0n sa=0 sb=0 ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=61.0n spob=61.0n spotl1=61.0n \
        spobl1=61.0n spotl2=61.0n spobl2=61.0n spotr1=61.0n spobr1=61.0n \
        spotr2=61.0n spobr2=61.0n
Rb (vdd vbias ) rhim l=2.35u w=360.0n multi=(1)

    Cdec16 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec15 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec14 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec13 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec12 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec11 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec10 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec9 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec8 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec7 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec6 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec5 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec4 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec3 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec2 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
    Cdec1 (vbias vss) cfmom_2t_p80 lr=1u multi=1 mxd_flag=0 nr=12 n_mxa=2 \
        spm=3 stm=1 vapmod=2
ends afe_bias
// End of subcircuit definition.

// Library name: afe_sch
// Cell name: tb_bias_dc
// View name: schematic
Vvdd (vdd 0) vsource type=sine
Xb (vbias vdd 0) afe_bias
