// UCIe-AP RX AFE golden netlist -- generated from the afe_sch schematics
// (si export of tb_afe_tran) by scripts/gen_golden_netlist.py; run scripts bake __X__ values.
simulator lang=spectre

__MODELS__

ahdl_include "afe_ber_chk.va"
ahdl_include "afe_clk_gen.va"
ahdl_include "afe_pingpong.va"
ahdl_include "afe_prbs23_gen.va"
ahdl_include "afe_samp.va"
// Library name: afe_sch
// Cell name: afe_tx_drv
// View name: schematic
subckt afe_tx_drv din pad vccio vdd vss
    Mp3d (n3 n2 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp3c (n3 n2 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp3b (n3 n2 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp3a (n3 n2 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp2c (n2 n1 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp2b (n2 n1 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp2a (n2 n1 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp1 (n1 din vdd vdd) pch_svt_mac l=16n nfin=4
    Mn3c (n3 n2 vss vss) nch_svt_mac l=16n nfin=16
    Mn3b (n3 n2 vss vss) nch_svt_mac l=16n nfin=16
    Mn3a (n3 n2 vss vss) nch_svt_mac l=16n nfin=16
    Mn2b (n2 n1 vss vss) nch_svt_mac l=16n nfin=16
    Mn2a (n2 n1 vss vss) nch_svt_mac l=16n nfin=16
    Mn1 (n1 din vss vss) nch_svt_mac l=16n nfin=2
    Mpu16 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu15 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu14 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu13 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu12 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu11 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu10 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu09 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu08 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu07 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu06 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu05 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu04 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu03 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu02 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu01 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpd6 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
    Mpd5 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
    Mpd4 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
    Mpd3 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
    Mpd2 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
    Mpd1 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
ends afe_tx_drv
// End of subcircuit definition.
// Library name: afe_sch
// Cell name: afe_bias
// View name: schematic
subckt afe_bias vbias vdd vss
    Mbb (vbias vbias vss vss) nch_lvt_mac l=16n nfin=16
    Mba (vbias vbias vss vss) nch_lvt_mac l=16n nfin=16
Rb (vdd vbias ) rhim l=2.35u w=360.0n multi=(1)
    Cdec16 (vbias vss) cfmom_2t_p80
    Cdec15 (vbias vss) cfmom_2t_p80
    Cdec14 (vbias vss) cfmom_2t_p80
    Cdec13 (vbias vss) cfmom_2t_p80
    Cdec12 (vbias vss) cfmom_2t_p80
    Cdec11 (vbias vss) cfmom_2t_p80
    Cdec10 (vbias vss) cfmom_2t_p80
    Cdec9 (vbias vss) cfmom_2t_p80
    Cdec8 (vbias vss) cfmom_2t_p80
    Cdec7 (vbias vss) cfmom_2t_p80
    Cdec6 (vbias vss) cfmom_2t_p80
    Cdec5 (vbias vss) cfmom_2t_p80
    Cdec4 (vbias vss) cfmom_2t_p80
    Cdec3 (vbias vss) cfmom_2t_p80
    Cdec2 (vbias vss) cfmom_2t_p80
    Cdec1 (vbias vss) cfmom_2t_p80
ends afe_bias
// End of subcircuit definition.
// Library name: afe_sch
// Cell name: afecmp_bank
// View name: schematic
subckt afecmp_bank az eval gp outn outp vbias vdd vin vref vss
    C2 (vref gn) capacitor c=80f
    C1 (pA gp) capacitor c=80f
    Rbgn (gn vss) resistor r=1T
    Rbgp (gp vss) resistor r=1T
    RbpA (pA vss) resistor r=1T
    MN2n (outp s1n t2 vss) nch_ulvt_mac l=16n nfin=6
    MN2p (outn s1p t2 vss) nch_ulvt_mac l=16n nfin=6
    MazGn (gn az vbias vss) nch_ulvt_mac l=16n nfin=8
    MazGp (gp az vbias vss) nch_ulvt_mac l=16n nfin=8
    MazA (pA az vref vss) nch_ulvt_mac l=16n nfin=8
    Msw (pA eval vin vss) nch_ulvt_mac l=16n nfin=8
    MNn (s1p gn tA vss) nch_lvt_mac l=16n nfin=8
    MNp (s1n gp tA vss) nch_lvt_mac l=16n nfin=8
    ML2n (outn outn vdd vdd) pch_svt_mac l=16n nfin=2
    ML2p (outp outp vdd vdd) pch_svt_mac l=16n nfin=2
    MLn (s1n s1n vdd vdd) pch_svt_mac l=16n nfin=2
    MLp (s1p s1p vdd vdd) pch_svt_mac l=16n nfin=2
    Msh (outp az outn vss) nch_svt_mac l=16n nfin=2
    Mtail2 (t2 eval vss vss) nch_svt_mac l=16n nfin=6
    Mtail (tA eval vss vss) nch_svt_mac l=16n nfin=8
ends afecmp_bank
// End of subcircuit definition.
// Library name: afe_sch
// Cell name: afe_tb_tran
// View name: schematic
subckt afe_tb_tran bit_cnt ck8 codeb0 codeb1 codeb2 codeb3 codeb4 codeb5  codeb6 codeb7 d_even d_odd err_cnt lock pclk rx_in tx_pad vccio  vdd vref vss
    G2 (aggr vdd) afe_prbs23_gen fbit=16e9 seed=19
    G1 (din vdd) afe_prbs23_gen fbit=16e9 seed=3
    CK (ck8 pclk pi_in vdd) afe_clk_gen tpclk_ph=17.5p
    PP (pclk a_eval a_az b_eval b_az vdd) afe_pingpong
    SMP (act_p act_n ck8 d_even d_odd vdd) afe_samp
    CHK (d_even d_odd ck8 lock err_cnt bit_cnt vdd) afe_ber_chk n_shift=__NS__ start_bit=200
    DRV (din tx_pad vccio vdd vss) afe_tx_drv
    BIAS (vbias vdd vss) afe_bias
    BB (b_az_g b_eval gp_b cmp_b_n cmp_b_p vbias vdd rx_in vref vss)  afecmp_bank
    BA (a_az_g a_eval gp_a cmp_a_n cmp_a_p vbias vdd rx_in vref vss)  afecmp_bank
    Rser (tx_pad ntx) resistor r=1.5
    TL (ntx vss rx_in vss) tline z0=30 td=9p
    Crx (rx_in vss) capacitor c=50f
    Cxt (aggr rx_in) capacitor c=8f
    Vcb7 (codeb7 0) vsource dc=__CB7__
    Vcb6 (codeb6 0) vsource dc=__CB6__
    Vcb5 (codeb5 0) vsource dc=__CB5__
    Vcb4 (codeb4 0) vsource dc=__CB4__
    Vcb3 (codeb3 0) vsource dc=__CB3__
    Vcb2 (codeb2 0) vsource dc=__CB2__
    Vcb1 (codeb1 0) vsource dc=__CB1__
    Vcb0 (codeb0 0) vsource dc=__CB0__
    Vpi (pi_in 0) vsource dc=__PCV__
    EazB (b_az_g 0 b_az 0) vcvs gain=__AZEN__
    EazA (a_az_g 0 a_az 0) vcvs gain=__AZEN__
    Idr (0 gp_a) isource dc=__DRIFT__
    MtgBn (cmp_b_n b_eval act_n vss) nch_svt_mac l=16n nfin=4
    MtgBp (cmp_b_p b_eval act_p vss) nch_svt_mac l=16n nfin=4
    MtgAn (cmp_a_n a_eval act_n vss) nch_svt_mac l=16n nfin=4
    MtgAp (cmp_a_p a_eval act_p vss) nch_svt_mac l=16n nfin=4
    MpgBn (cmp_b_n a_eval act_n vdd) pch_svt_mac l=16n nfin=4
    MpgBp (cmp_b_p a_eval act_p vdd) pch_svt_mac l=16n nfin=4
    MpgAn (cmp_a_n b_eval act_n vdd) pch_svt_mac l=16n nfin=4
    MpgAp (cmp_a_p b_eval act_p vdd) pch_svt_mac l=16n nfin=4
ends afe_tb_tran
// End of subcircuit definition.
// Library name: afe_sch
// Cell name: afe_dac_r2r
// View name: schematic
subckt afe_dac_r2r b0 b1 b2 b3 b4 b5 b6 b7 vccio vdd vref vss
    Mdn7pb (m7 b0 vss vdd) pch_svt_mac l=16n nfin=16
    Mdn7pa (m7 b0 vss vdd) pch_svt_mac l=16n nfin=16
    Mup7pb (m7 b0n vccio vdd) pch_svt_mac l=16n nfin=16
    Mup7pa (m7 b0n vccio vdd) pch_svt_mac l=16n nfin=16
    Mdn6pb (m6 b1 vss vdd) pch_svt_mac l=16n nfin=16
    Mdn6pa (m6 b1 vss vdd) pch_svt_mac l=16n nfin=16
    Mup6pb (m6 b1n vccio vdd) pch_svt_mac l=16n nfin=16
    Mup6pa (m6 b1n vccio vdd) pch_svt_mac l=16n nfin=16
    Mdn5pb (m5 b2 vss vdd) pch_svt_mac l=16n nfin=16
    Mdn5pa (m5 b2 vss vdd) pch_svt_mac l=16n nfin=16
    Mup5pb (m5 b2n vccio vdd) pch_svt_mac l=16n nfin=16
    Mup5pa (m5 b2n vccio vdd) pch_svt_mac l=16n nfin=16
    Mdn4pb (m4 b3 vss vdd) pch_svt_mac l=16n nfin=16
    Mdn4pa (m4 b3 vss vdd) pch_svt_mac l=16n nfin=16
    Mup4pb (m4 b3n vccio vdd) pch_svt_mac l=16n nfin=16
    Mup4pa (m4 b3n vccio vdd) pch_svt_mac l=16n nfin=16
    Mdn3pb (m3 b4 vss vdd) pch_svt_mac l=16n nfin=16
    Mdn3pa (m3 b4 vss vdd) pch_svt_mac l=16n nfin=16
    Mup3pb (m3 b4n vccio vdd) pch_svt_mac l=16n nfin=16
    Mup3pa (m3 b4n vccio vdd) pch_svt_mac l=16n nfin=16
    Mdn2pb (m2 b5 vss vdd) pch_svt_mac l=16n nfin=16
    Mdn2pa (m2 b5 vss vdd) pch_svt_mac l=16n nfin=16
    Mup2pb (m2 b5n vccio vdd) pch_svt_mac l=16n nfin=16
    Mup2pa (m2 b5n vccio vdd) pch_svt_mac l=16n nfin=16
    Mdn1pb (m1 b6 vss vdd) pch_svt_mac l=16n nfin=16
    Mdn1pa (m1 b6 vss vdd) pch_svt_mac l=16n nfin=16
    Mup1pb (m1 b6n vccio vdd) pch_svt_mac l=16n nfin=16
    Mup1pa (m1 b6n vccio vdd) pch_svt_mac l=16n nfin=16
    Mdn0pb (m0 b7 vss vdd) pch_svt_mac l=16n nfin=16
    Mdn0pa (m0 b7 vss vdd) pch_svt_mac l=16n nfin=16
    Mup0pb (m0 b7n vccio vdd) pch_svt_mac l=16n nfin=16
    Mup0pa (m0 b7n vccio vdd) pch_svt_mac l=16n nfin=16
    Minv7 (b7n b7 vdd vdd) pch_svt_mac l=16n nfin=4
    Minv6 (b6n b6 vdd vdd) pch_svt_mac l=16n nfin=4
    Minv5 (b5n b5 vdd vdd) pch_svt_mac l=16n nfin=4
    Minv4 (b4n b4 vdd vdd) pch_svt_mac l=16n nfin=4
    Minv3 (b3n b3 vdd vdd) pch_svt_mac l=16n nfin=4
    Minv2 (b2n b2 vdd vdd) pch_svt_mac l=16n nfin=4
    Minv1 (b1n b1 vdd vdd) pch_svt_mac l=16n nfin=4
    Minv0 (b0n b0 vdd vdd) pch_svt_mac l=16n nfin=4
    Mdn7nb (m7 b0n vss vss) nch_svt_mac l=16n nfin=16
    Mdn7na (m7 b0n vss vss) nch_svt_mac l=16n nfin=16
    Mup7nb (m7 b0 vccio vss) nch_svt_mac l=16n nfin=16
    Mup7na (m7 b0 vccio vss) nch_svt_mac l=16n nfin=16
    Mdn6nb (m6 b1n vss vss) nch_svt_mac l=16n nfin=16
    Mdn6na (m6 b1n vss vss) nch_svt_mac l=16n nfin=16
    Mup6nb (m6 b1 vccio vss) nch_svt_mac l=16n nfin=16
    Mup6na (m6 b1 vccio vss) nch_svt_mac l=16n nfin=16
    Mdn5nb (m5 b2n vss vss) nch_svt_mac l=16n nfin=16
    Mdn5na (m5 b2n vss vss) nch_svt_mac l=16n nfin=16
    Mup5nb (m5 b2 vccio vss) nch_svt_mac l=16n nfin=16
    Mup5na (m5 b2 vccio vss) nch_svt_mac l=16n nfin=16
    Mdn4nb (m4 b3n vss vss) nch_svt_mac l=16n nfin=16
    Mdn4na (m4 b3n vss vss) nch_svt_mac l=16n nfin=16
    Mup4nb (m4 b3 vccio vss) nch_svt_mac l=16n nfin=16
    Mup4na (m4 b3 vccio vss) nch_svt_mac l=16n nfin=16
    Mdn3nb (m3 b4n vss vss) nch_svt_mac l=16n nfin=16
    Mdn3na (m3 b4n vss vss) nch_svt_mac l=16n nfin=16
    Mup3nb (m3 b4 vccio vss) nch_svt_mac l=16n nfin=16
    Mup3na (m3 b4 vccio vss) nch_svt_mac l=16n nfin=16
    Mdn2nb (m2 b5n vss vss) nch_svt_mac l=16n nfin=16
    Mdn2na (m2 b5n vss vss) nch_svt_mac l=16n nfin=16
    Mup2nb (m2 b5 vccio vss) nch_svt_mac l=16n nfin=16
    Mup2na (m2 b5 vccio vss) nch_svt_mac l=16n nfin=16
    Mdn1nb (m1 b6n vss vss) nch_svt_mac l=16n nfin=16
    Mdn1na (m1 b6n vss vss) nch_svt_mac l=16n nfin=16
    Mup1nb (m1 b6 vccio vss) nch_svt_mac l=16n nfin=16
    Mup1na (m1 b6 vccio vss) nch_svt_mac l=16n nfin=16
    Mdn0nb (m0 b7n vss vss) nch_svt_mac l=16n nfin=16
    Mdn0na (m0 b7n vss vss) nch_svt_mac l=16n nfin=16
    Mup0nb (m0 b7 vccio vss) nch_svt_mac l=16n nfin=16
    Mup0na (m0 b7 vccio vss) nch_svt_mac l=16n nfin=16
    Mdnv7 (b7n b7 vss vss) nch_svt_mac l=16n nfin=2
    Mdnv6 (b6n b6 vss vss) nch_svt_mac l=16n nfin=2
    Mdnv5 (b5n b5 vss vss) nch_svt_mac l=16n nfin=2
    Mdnv4 (b4n b4 vss vss) nch_svt_mac l=16n nfin=2
    Mdnv3 (b3n b3 vss vss) nch_svt_mac l=16n nfin=2
    Mdnv2 (b2n b2 vss vss) nch_svt_mac l=16n nfin=2
    Mdnv1 (b1n b1 vss vss) nch_svt_mac l=16n nfin=2
    Mdnv0 (b0n b0 vss vss) nch_svt_mac l=16n nfin=2
Rterm (n7 vss ) rhim l=7.01u w=360.0n multi=(1)
Rarm7 (m7 n7 ) rhim l=7.01u w=360.0n multi=(1)
Rarm6 (m6 n6 ) rhim l=7.01u w=360.0n multi=(1)
Rarm5 (m5 n5 ) rhim l=7.01u w=360.0n multi=(1)
Rarm4 (m4 n4 ) rhim l=7.01u w=360.0n multi=(1)
Rarm3 (m3 n3 ) rhim l=7.01u w=360.0n multi=(1)
Rarm2 (m2 n2 ) rhim l=7.01u w=360.0n multi=(1)
Rarm1 (m1 n1 ) rhim l=7.01u w=360.0n multi=(1)
Rarm0 (m0 vref ) rhim l=6.95u w=360.0n multi=(1)
Rs6 (n7 n6 ) rhim l=3.51u w=360.0n multi=(1)
Rs5 (n6 n5 ) rhim l=3.51u w=360.0n multi=(1)
Rs4 (n5 n4 ) rhim l=3.51u w=360.0n multi=(1)
Rs3 (n4 n3 ) rhim l=3.51u w=360.0n multi=(1)
Rs2 (n3 n2 ) rhim l=3.51u w=360.0n multi=(1)
Rs1 (n2 n1 ) rhim l=3.51u w=360.0n multi=(1)
Rs0 (n1 vref ) rhim l=3.51u w=360.0n multi=(1)
ends afe_dac_r2r
// End of subcircuit definition.
// Library name: afe_sch
// Cell name: afe_pad_esd
// View name: schematic
subckt afe_pad_esd pad vdd vss
    Xpd (pad vdd) pdio_hia18_mac l=118n nfin=12 w=346n nf=100 multi=(1)
    Xnd (vss pad) ndio_hia18_mac l=118n nfin=12 w=346n nf=100 multi=(1)
ends afe_pad_esd
// End of subcircuit definition.
// Library name: afe_sch
// Cell name: tb_afe_tran
// View name: schematic
Xtb (bit_cnt ck8 codeb0 codeb1 codeb2 codeb3 codeb4 codeb5 codeb6 codeb7  d_even d_odd err_cnt lock pclk rx_in tx_pad vccio vdd vref vss)  afe_tb_tran
Vvccio (vcciosrc 0) vsource dc=0.45
Vnvdd (vddsrc vddpkg) vsource type=sine sinedc=0 ampl=__AMPL__ freq=__FN__
Vvdd (vddsrc 0) vsource dc=0.8
Rvss (vss vssext) resistor r=__RS__
Rvccio (vcciosrc vcciopkg) resistor r=__RS__
Rvdd (vddpkg vddi) resistor r=__RS__
Lvss (vssext 0) inductor l=__LS__
Lvccio (vcciopkg vccio) inductor l=__LS__
Lvdd (vddi vdd) inductor l=__LS__
Xdac (codeb0 codeb1 codeb2 codeb3 codeb4 codeb5 codeb6 codeb7 vccio vdd  vref vss) afe_dac_r2r
Xesd_tx (tx_pad vdd vss) afe_pad_esd
Xesd_rx (rx_in vdd vss) afe_pad_esd
Xpc (vdd vss vss vss) nch_hia18_mac l=150n nfin=20
Cdvref2 (vref vss) cfmom_2t_p80
Cdvref1 (vref vss) cfmom_2t_p80
Cdvccio4 (vccio vss) cfmom_2t_p80
Cdvccio3 (vccio vss) cfmom_2t_p80
Cdvccio2 (vccio vss) cfmom_2t_p80
Cdvccio1 (vccio vss) cfmom_2t_p80
Cdvdd4 (vdd vss) cfmom_2t_p80
Cdvdd3 (vdd vss) cfmom_2t_p80
Cdvdd2 (vdd vss) cfmom_2t_p80
Cdvdd1 (vdd vss) cfmom_2t_p80

// ---- directives (verbatim from tb_afe_tran.scs) ----
nodeset Xtb.BA.gp=0.4 Xtb.BA.gn=0.4 Xtb.BA.pA=0.225
nodeset Xtb.BB.gp=0.4 Xtb.BB.gn=0.4 Xtb.BB.pA=0.225
// replica bias + DAC outputs: the decap x Zout time constants are >> sim
// length (nodeset ignored on these driven nodes; ic works). Supplies need
// ic too: the VA blocks latch V(vdd) at initial_step and the package L/R
// ramps vdd over ~2 ns (measured: all VA swings collapsed to 0.245 V).
ic Xtb.vbias=__VBIC__ vref=__VREFV__ vdd=0.8 vccio=0.45

// temp on a named options statement — analysis-level temp= was silently
// ignored (all pre-2026-09-03 "TEMP=25" runs actually simulated at 27C)
simOpts options temp=__TEMP__
tran tran stop=__STOP__ maxstep=2.5p method=gear2only skipdc=yes __NOISE_OPTS__ annotate=status

saveOptions options save=selected
save rx_in tx_pad vref ck8 pclk d_even d_odd lock err_cnt bit_cnt
save vdd vccio vss
save Xtb.act_p Xtb.act_n Xtb.cmp_a_p Xtb.cmp_a_n Xtb.cmp_b_p Xtb.cmp_b_n
save Xtb.a_eval Xtb.a_az Xtb.b_eval Xtb.din Xtb.n3
save Xtb.BA.gp Xtb.BA.gn Xtb.BA.pA Xtb.BA.tA Xtb.BA.tAp
save Xtb.BA.az Xtb.vbias Xtb.BA:MazGp:1
save Xtb.BA.s1p Xtb.BA.s1n Xtb.BA.t2 Xtb.BB.s1p Xtb.BB.s1n
save Xtb.BA:pwr Xtb.BB:pwr Xtb.DRV:pwr Xdac:pwr
